US06265415B1
Synthesis of 2,6-dimethyl-8-(2-ethyl-4-fluoro-6-methylbenzylamino)-3-hydroxymethylimidazo[1,2-a]pyridine
To a mixture of LiAlH4 (0.08 g, 2.1 mmol) in tetrahydrofuran (15 ml) was added 3-carboethoxy-2,6-dimethyl-8-(2-ethyl-4-fluoro-6-methylbenzylamino)imidazo[1,2-a]pyridine (0.4g, 1.0) mmol in tetrahydrofuran (15 ml). After stirring the mixture at room temperature for 4 h., 0.1 ml of water was added dropwise, followed by 0.1 ml of 15% sodium hydroxide and then 0.3 ml of water. The solids were removed by filtration and washed thoroughly with tetrahydrofuran. The filtrate and washings were combined and dried and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel using methylene chloride:methanol (9:1) as eluent. Crystallization from acetonitril gave 0.32 g (89%) of the title compound.

reactant | LiAlH4 | 2.1 mmol, 0.08 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-carboethoxy-2,6-dimethyl-8-(2-ethyl-4-fluoro-6-methylbenzylamino)imidazo[1,2-a]pyridine | 0.4g | C(=O)(OCC)C1=C(N=C2N1C=C(C=C2NCC2=C(C=C(C=C2C)F)CC)C)C | C22H26FN3O2
reactant | water | 0.1 ml | O | H2O
reactant | sodium hydroxide | 0.1 ml | [OH-].[Na+]
reactant | water | 0.3 ml | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2,6-dimethyl-8-(2-ethyl-4-fluoro-6-methylbenzylamino)-3-hydroxymethylimidazo[1,2-a]pyridine | 0.32 g, 89% | CC=1N=C2N(C=C(C=C2NCC2=C(C=C(C=C2C)F)CC)C)C1CO | C20H24FN3O
